US07399763B2
Ethyl 2-benzyl-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylate
A mixture of 1-benzylpiperazin-2-one (0.29 g, 1.54 mmol) and diethyl ethoxymethylenemalonate (0.35 g, 1.63 mmol) in toluene was heated in a sealed tube at 80° C. for 4 hours. The resultant mixture was concentrated under vacuum. The residue was dissolved in anhydrous DMF (10 mL), cooled to 0° C. under an atmosphere of nitrogen, and treated with a solution of lithium bis(trimethylsilyl)amide in THF (1 M, 2.0 mL, 2.0 mmol). The reaction mixture was stirred at room temperature overnight and concentrated under vacuum. The residue was partitioned between ethyl acetate and dilute aqueous HCl. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was triturated with diethyl ether, and the solid precipitated was filtered to provide the title compound.

reactant | 1-benzylpiperazin-2-one | 1.54 mmol, 0.29 g | C(C1=CC=CC=C1)N1C(CNCC1)=O | C11H14N2O
reactant | diethyl ethoxymethylenemalonate | 1.63 mmol, 0.35 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 2.0 mmol, 1 M, 2.0 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylate | C(C1=CC=CC=C1)N1C(C=2N(CC1)C=C(C2O)C(=O)OCC)=O | C17H18N2O4
